US08455483B2
a) 2-(3-(Bromomethyl)-5-methylphenyl)acetic acid
NBS (3.12 g) was added portionwise over 1 hour to a solution of 2-(3,5-dimethylphenyl)acetic acid (3.6 g) and AIBN (0.015 g) in ethyl acetate (100 mL) at 50° C. under nitrogen. More AIBN (0.015 g) was added and the mixture was heated to reflux for 3 hours. The reaction mixture was washed with 10% aqueous sodium chloride solution (2×200 mL), dried over magnesium sulphate, filtered and evaporated. The crude material was purified by flash silica chromatography using 20% ethyl acetate in isohexane containing 1% acetic acid as solvent. Fractions containing the product were evaporated to dryness to afford a solid which was triturated with cyclohexane (10 mL) to yield the subtitled compound as a white solid. Yield 2.10 g.

reactant | NBS | 3.12 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-(3,5-dimethylphenyl)acetic acid | 3.6 g | CC=1C=C(C=C(C1)C)CC(=O)O | C10H12O2
reactant | AIBN | 0.015 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | AIBN | 0.015 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-(Bromomethyl)-5-methylphenyl)acetic acid | BrCC=1C=C(C=C(C1)C)CC(=O)O | C10H11BrO2
